US07365095B2
Treatment of (2R)-2-(2′-chloro-6-fluoro-3-(prop-1-enyl)biphenyl-2-yloxy)but-3-enyl 4-methylbenzenesulfonate (1.5 g, 3.08 mmol) with benzylidene-bis(tricyclohexylphosphine)-dichlororuthenium (0.50 g, 0.61 mmol) in 1,2-dichloroethane (30 mL) according to the procedure described for Example 69, Step 7 provided 0.7 g (51%) of ((2R)-8-(2-chlorophenyl)-7-fluoro-2H-chromen-2-yl)methyl 4-methylbenzene-sulfonate as a thick dark oil.

reactant | (2R)-2-(2′-chloro-6-fluoro-3-(prop-1-enyl)biphenyl-2-yloxy)but-3-enyl 4-methylbenzenesulfonate | 3.08 mmol, 1.5 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H](C=C)OC1=C(C(=CC=C1C=CC)F)C1=C(C=CC=C1)Cl | C26H24ClFO4S
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
catalyst | benzylidene-bis(tricyclohexylphosphine) dichlororuthenium | 0.61 mmol, 0.50 g | C(C1=CC=CC=C1)(P(C1CCCCC1)(C1CCCCC1)C1CCCCC1)P(C1CCCCC1)(C1CCCCC1)C1CCCCC1.Cl[Ru]Cl
product | ((2R)-8-(2-chlorophenyl)-7-fluoro-2H-chromen-2-yl)methyl 4-methylbenzene-sulfonate | 0.7 g, 51% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C(=CC=C2C=C1)F)C1=C(C=CC=C1)Cl | C23H18ClFO4S
